US05087638
A solution of benzoyl chloride (3.03 gm; 21.6 mmoles) in ethylene dichloride (20 mL) was added slowly to a cooled suspension of aluminium chloride (5.8 gm; 43 mmoles) in ethylenedichloride (100 mL). After stirring for a period of 10 minutes, 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran (1.62 gm; 7.2 mmoles) in dichloroethylene (20 mL) was added over a period of 2 minutes. The reaction mixture was stirred at room temperature for 1 hour. It was cooled with an ice-bath and ice was added slowly. When the vigorous reaction subsided, the organic layer was separated and the aqueous phase was extracted with methylene chloride. The organic phases were combined, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel and eluted with 10% ethylacetate in hexane to yield 1.18 gm (63%) of 2-benzoyl-3-methyl-4-benzoyloxy-5-propyl-7-chlorobenzofuran, mp. 141°-142° C.

reactant | benzoyl chloride | 21.6 mmoles, 3.03 gm | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminium chloride | 43 mmoles, 5.8 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 7.2 mmoles, 1.62 gm | CC1=COC2=C1C(=C(C=C2Cl)CCC)O | C12H13ClO2
solvent | ethylene dichloride | 20 mL | C(CCl)Cl | C2H4Cl2
solvent | ethylenedichloride | 100 mL | C(CCl)Cl | C2H4Cl2
solvent | dichloroethylene | 20 mL | C(CCl)Cl | C2H4Cl2
product | 2-benzoyl-3-methyl-4-benzoyloxy-5-propyl-7-chlorobenzofuran | 1.18 gm, 63% | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C)C(=C(C=C2Cl)CCC)OC(C2=CC=CC=C2)=O | C26H21ClO4
